US06610707B1
N2-Methyl-(2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxamide
The title compound was prepared by a similar method to Preparation 39 from (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylic acid [see Preparation 38] and methylamine to afford N2-methyl-(2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxamide as an oil.

reactant | (2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxylic acid | FC1=CC=C(C=C1)S(=O)(=O)N1[C@@H](CCCC1)C(=O)O | C12H14FNO4S
reactant | methylamine | CN | CH5N
product | N2-methyl-(2S)-1-[(4-fluorophenyl)sulfonyl]-2-piperidinecarboxamide | CNC(=O)[C@H]1N(CCCC1)S(=O)(=O)C1=CC=C(C=C1)F | C13H17FN2O3S
